US03978100
A mixture of 65.6 g of ethyl ortho-acetate, 30.4 g of dehydrolinalool and 1.5 g of isobutyric acid was reacted at 130° to 140°C. for 8 hours. Distillation was conducted after the reaction in the same manner as in the preceeding Examples, and a fraction boiling at 92 to 94°C. under 0.5 mm Hg was collected. Ethyl 5,9-dimethyl-3,4,8-decatrienoate was obtained in a yield of 96%.

reactant | ethyl ortho-acetate | 65.6 g | C(C)(OCC)([O-])[O-]
reactant | dehydrolinalool | 30.4 g | CC(=CCCC(C)(C#C)O)C | C10H16O
reactant | isobutyric acid | 1.5 g | C(C(C)C)(=O)O | C4H8O2
product | Ethyl 5,9-dimethyl-3,4,8-decatrienoate | yield of 96% | CC(=C=CCC(=O)OCC)CCC=C(C)C | C14H22O2
